US06610692B1
Step 1: 2-Vinyl-3-nitropyridine
Into a solution of the commercially available 2-chloro-3-nitropyridine (2 g, 12.6 mMol) in 5 mL of anhydrous N,N-dimethylformamide under inert atmosphere was added tributyl(vinyl)tin (4 mL, 13.87 mMol, 1.1 eq), lithium chloride (2.68 g, 50.46 mMol, 5 eq), and dichlorobis(triphenylphosphine)-palladium(II) (442 mg, 0.64 mMol, 5 Mol %). This was heated for 18 h at 90° C., concentrated in vacuo, and purified by flash silica gel chromatography using 10% ethyl acetate in hexanes as an eluent to afford the title compound as a brown oil (0.75 g).

reactant | 2-chloro-3-nitropyridine | 12.6 mMol, 2 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | tributyl(vinyl)tin | 13.87 mMol, 4 mL, 1.1 eq | C(CCC)[Sn](C=C)(CCCC)CCCC
reactant | lithium chloride | 50.46 mMol, 2.68 g, 5 eq | [Cl-].[Li+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
catalyst | dichlorobis(triphenylphosphine)-palladium(II) | 0.64 mMol, 442 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-Vinyl-3-nitropyridine | 0.75 g | C(=C)C1=NC=CC=C1[N+](=O)[O-] | C7H6N2O2
